US08957068B2
(S)-tert-butyl (1-hydrazinyl-1-oxopropan-2-yl)carbamate
A solution of hydrazine (234 mg, 7.31 mmol, 1.5 equv. in 8 ml of THF) was added to (S)-methyl 2-(tert-butoxycarbonylamino)propanoate (1000 mg, 4.88 mmol, 1.0 equv.), it was stirred in a sealed tube and refluxed (72° C.) overnight (18 hours), the solvent was removed to yield the desired product (880 mg, white solid) in 84% yield.

reactant | hydrazine | 7.31 mmol, 8 ml, 234 mg | NN | H4N2
reactant | (S)-methyl 2-(tert-butoxycarbonylamino)propanoate | 4.88 mmol, 1000 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)C | C9H17NO4
product | (S)-tert-butyl (1-hydrazinyl-1-oxopropan-2-yl)carbamate | 880 mg, 84% yield | N(N)C([C@H](C)NC(OC(C)(C)C)=O)=O | C8H17N3O3
